US07087750B2
1-(Mesitylsulfonyl)-4-(1-piperazinyl)-1H-indole Hydrochloride (Scheme 1)
The title compound was prepared from 4-(4-boc-piperazinyl)-indole and mesitylsulfonylchloride according to Method 3: 1H NMR (270 MHz, DMSO-d6) δ 9.10 (br, 1 H), 7.71 (d, J=5 Hz, 1 H), 7.40–7.20 (m, 3 H), 7.00–6.80 (m, 2 H), 6.51 (d, J=8 Hz, 1 H), 3.30–3.20 (m, 8 H), 2.41 (s, 6 H), 2.27 (s, 3 H); MS (ESI+) for m/z 384 (M+H)+.

reactant | 4-(4-boc-piperazinyl)-indole | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C17H23N3O2
reactant | mesitylsulfonylchloride | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
product | 1-(Mesitylsulfonyl)-4-(1-piperazinyl)-1H-indole Hydrochloride | Cl.C1(=C(C(=CC(=C1)C)C)S(=O)(=O)N1C=CC2=C(C=CC=C12)N1CCNCC1)C | InChI=1S/C21H25N3O2S.ClH/c1-15-13-16(2)21(17(3)14-15)27(25,26)24-10-7-18-19(5-4-6-20(18)24)23-11-8-22-9-12-23;/h4-7,10,13-14,22H,8-9,11-12H2,1-3H3;1H
